US07241785B2
A mixture of ethyl 3-[2-amino-4-(5,6,7,8-tetrahydro-2-naphthyl)-5-thiazolyl]propionate (270 mg), [4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]phenyl]acetic acid (250 mg), WSC (170 mg), HOBt (135 mg) and N,N-dimethylformamide (10 ml) was stirred for 3 days. The reaction mixture was poured into water, neutralized with 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The residue was dissolved in ethanol (9 ml)-tetrahydrofuran (1 ml) and 1N aqueous sodium hydroxide solution (2 ml) was added at 0° C. The mixture was stirred at room temperature for 2 hrs. The reaction mixture was poured into water, neutralized with 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and 3-[2-[[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]phenyl]acetylamino]-4-(5,6,7,8-tetrahydro-2-naphthyl)-5-thiazolyl]propionic acid (270 mg,57%) was obtained as an amorphous oil from a fraction eluted with acetone-hexane (3:2, volume ratio).

reactant | ethyl 3-[2-amino-4-(5,6,7,8-tetrahydro-2-naphthyl)-5-thiazolyl]propionate | 270 mg | NC=1SC(=C(N1)C1=CC=2CCCCC2C=C1)CCC(=O)OCC | C18H22N2O2S
reactant | [4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]phenyl]acetic acid | 250 mg | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=C1)CC(=O)O)C | C17H15NO5
reactant | WSC | 170 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 135 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[2-[[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]phenyl]acetylamino]-4-(5,6,7,8-tetrahydro-2-naphthyl)-5-thiazolyl]propionic acid | 270 mg, 57% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=C1)CC(=O)NC=1SC(=C(N1)C1=CC=2CCCCC2C=C1)CCC(=O)O)C | C33H31N3O6S
